US06642226B2
Rac-cis-1-(1-benzyl-3-phenyl-piperidin-4-yl)-piperazine (4.62 g, 13.8 mmol) was dissolved in methylene chloride (100 mL) and 4-dimethylaminopyridine (29 mg, 0.14 mmol) was added. The reaction mixture was cooled with an ice bath and pyridine (2.78 mL, 34.4 mmol) and trifluoroacetic acid anhydride (2.68 mL, 19.3 mmol) were added sequentially. The mixture was stirred at room temperature overnight and water (100 mL) was added. The organic phase was separated and the aqueous layer was extracted twice with 100 mL methylene chloride. Organic phases were pooled, dried with magnesium sulfate and evaporated. Flash chromatography on silica gel with hexane/ethyl acetate/triethyl amine 90:10:1 gave rac-cis-1-[4-(1-benzyl-3-phenyl-piperidin-4-yl)-piperazin-1-yl]-2,2,2-trifluoro-ethanone (4.64 g, 78%) as a light yellow oil, MS: m/e=432.5 (M+H+).

reactant | Rac-cis-1-(1-benzyl-3-phenyl-piperidin-4-yl)-piperazine | 13.8 mmol, 4.62 g | C(C1=CC=CC=C1)N1C[C@H]([C@H](CC1)N1CCNCC1)C1=CC=CC=C1 | C22H29N3
reactant | pyridine | 34.4 mmol, 2.78 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic acid anhydride | 19.3 mmol, 2.68 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 100 mL | O | H2O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.14 mmol, 29 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | rac-cis-1-[4-(1-benzyl-3-phenyl-piperidin-4-yl)-piperazin-1-yl]-2,2,2-trifluoro-ethanone | 4.64 g, 78% | C(C1=CC=CC=C1)N1C[C@H]([C@H](CC1)N1CCN(CC1)C(C(F)(F)F)=O)C1=CC=CC=C1 | C24H28F3N3O
